### PR TITLE
precategory of setwithbinops is a category

### PR DESCRIPTION
**Pull request by tpannila**
This PR contains
- precategory of setwithbinops is a category, `binop_precategory_is_category`, line 213,
  category_binops.v.
- The weak equivalence needed for this is constructed in `setwithbinop_weq`, line 1676,
  BinaryOperations.v
- Since foundations is locked, there are some general results in BinaryOperations.v
  after the comment `(* to upstream *)`, line 42. Should I move these to MoreFoundations?

### CODE REVIEW

File: UniMath/Algebra/BinaryOperations.v [hunk 1]
```diff
@@ -41,6 +41,118 @@ Require Export UniMath.Foundations.Sets.
...
+
+Lemma transportf_weqtopaths {X Y : UU} (w : X ≃ Y) (x : X) :
+  transportf (λ X0, X0) (@weqtopaths X Y w) x = pr1weq w x.
+Proof.
+  intros X Y w x.
+  set (tmp := homotweqinvweq (weqpair _ (fun w' : weq X Y => (univalenceAxiom X Y w'))) w).
+  apply (maponpaths (fun w' : _ => @weqtopaths X Y w')) in tmp.
+  rewrite <- tmp. clear tmp. cbn.
+  rewrite transportf_weqtopaths'.
+  set (tmp := homotweqinvweq (weqpair _ (fun w' : weq X Y => (univalenceAxiom X Y w'))) w).
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: Can't you do `apply (homotweqinvweq (weqpair _ (fun w' : weq X Y => (univalenceAxiom X Y w'))) w)` here? Or `exact ...`?

**Comment by mortberg** [comment]
lgtm

File: UniMath/Algebra/BinaryOperations.v (hunk 1 above)
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: These results about equivalences do not belong in this file.  What about in a new file to be called `MoreFoundations/Equivalences.v`?

**Comment by DanGrayson** [comment]
Re: "Since foundations is locked, there are some general results in BinaryOperations.v
after the comment (* to upstream *), line 42. Should I move these to MoreFoundations?"

Yes, that would be good.

File: UniMath/Algebra/BinaryOperations.v [hunk 2]
```diff
@@ -1426,6 +1558,131 @@ Definition invbinopiso {X Y : setwithbinop} (f : binopiso X Y) :
...
+  rewrite base_total2_paths.
+  set (tmp := homotweqinvweq (weqpair eqweqmap (univalenceAxiom (pr1 X) (pr1 Y))) (pr1 f)).
+  cbn in tmp. cbn.
+  rewrite tmp.
+  use idpath.
+Defined.
+Opaque setwithbinop_weq_hfiber_path.
+
+Definition setwithbinop_weq_map (X Y : setwithbinop) : X = Y → binopiso X Y.
+Proof.
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This definition should be elementary and not use univalence.

**Comment by DanGrayson** [comment]
I think this proof of univalence for sets with binary operation would be more direct than yours:

https://github.com/DanGrayson/UniMath/commit/dbdf613b557340db70da0c03588348053ea53880

**Comment by tpannila** [comment]
Thank you for comments and suggestions @mortberg and @DanGrayson . I removed my proof 
and used Dan's proof, because Dan's proof is much better.

**Comment by DanGrayson** [comment]
A simplification:
```
diff --git a/UniMath/CategoryTheory/category_binops.v b/UniMath/CategoryTheory/category_binops.v
index 1188450..d2afedf 100644
--- a/UniMath/CategoryTheory/category_binops.v
+++ b/UniMath/CategoryTheory/category_binops.v
@@ -200,11 +200,11 @@ Section BINOP_category.
            (pr1weq (weqcomp (setwithbinop_univalence a b) (binop_equiv_iso_weq a b)))
            _ _ (weqproperty (weqcomp (setwithbinop_univalence a b) (binop_equiv_iso_weq a b)))).
     intros e. induction e.
+    rewrite weqcomp_to_funcomp_app.
+    change ((binop_equiv_iso_weq a a) (idbinopiso a) = idtoiso (idpath a)).
     use total2_paths_f.
-    - use total2_paths_f.
-      + use idpath.
-      + use proofirrelevance. use isapropisbinopfun.
-    - use proofirrelevance. use isaprop_is_iso.
+    - reflexivity.
+    - exact (pr1 (isaprop_is_iso _ _ _ _ _)).
   Defined.
   Opaque binop_precategory_isweq.
 
```

**Comment by benediktahrens** [comment]
lgtm

**Comment by vladimirias** [comment]
It seems to me that the work of Catherine Lelay on the transport of binary operations and their properties along equivalences of types should be relevant here. Have you been able to use it?

**Comment by tpannila** [comment]
> It seems to me that the work of Catherine Lelay on the transport of binary operations 
> and their properties along equivalences of types should be relevant here. Have you 
> been able to use it?

No. I think Dan's proof didn't use any transports directly.
